US07897788B2
[3-((E)-2-Cyano-2-phenylcarbamoyl-vinyl)-indol-1-yl]-acetic acid
A stirred solution of crude ethyl [3-(2-cyano-2-phenylcarbamoyl-vinyl)-indol-1-yl]-acetate (0.079 mmol) in THF (0.8 ml) is treated with 0.2N aqueous NaOH (0.4 ml, 0.08 mmol) at rt for 10 min. The yellow reaction mixture is diluted with water (2 ml) and washed twice with diethyl ether (2 ml). The aqueous phase is acidified to pH 1 by adding conc. HCl and extracted with dichloromethane. The solvent is evaporated and the residue is recrystallized from acetonitrile yielding pure title compound.

reactant | ethyl [3-(2-cyano-2-phenylcarbamoyl-vinyl)-indol-1-yl]-acetate | 0.079 mmol | C(#N)C(=CC1=CN(C2=CC=CC=C12)CC(=O)OCC)C(NC1=CC=CC=C1)=O | C22H19N3O3
reactant | NaOH | 0.08 mmol, 0.2N, 0.4 ml | [OH-].[Na+]
solvent | THF | 0.8 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | [3-((E)-2-Cyano-2-phenylcarbamoyl-vinyl)-indol-1-yl]-acetic acid | C(#N)\C(=C/C1=CN(C2=CC=CC=C12)CC(=O)O)\C(NC1=CC=CC=C1)=O | C20H15N3O3
